US08476301B2
4,4-Difluoro-N-methoxy-N-methylcyclohexane-1-carboxamide
A mixture of ethyl 4,4-difluorocyclohexane-1-carboxylate (1.9 g, 9.88 mmol) and tetrahydrofuran (60 ml) was cooled to −70° C., and N,O-dimethylhydroxyamine hydrochloride (1.44 g, 14.8 mmol) was added. Further, 1.05 M n-propylmagnesium bromide (24.2 ml, 25.2 mmol) was added dropwise to the reaction mixture at −55° C. over five minutes so that the internal temperature did not exceed −35° C., and the reaction mixture was stirred at 0° C. for 30 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/heptane) to give the title compound (1.7 g, yield 83%).

reactant | ethyl 4,4-difluorocyclohexane-1-carboxylate | 9.88 mmol, 1.9 g | FC1(CCC(CC1)C(=O)OCC)F | C9H14F2O2
reactant | N,O-dimethylhydroxyamine hydrochloride | 14.8 mmol, 1.44 g | Cl.CNOC
reactant | n-propylmagnesium bromide | 25.2 mmol, 1.05 M, 24.2 ml | C(CC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4,4-Difluoro-N-methoxy-N-methylcyclohexane-1-carboxamide | 1.7 g, yield 83% | FC1(CCC(CC1)C(=O)N(C)OC)F | C9H15F2NO2
